US06441023B1
2-(4-Fluoro-benzenesulfonyl)-2-but-2-ynylhexynoic acid tert-butyl ester was prepared according to the procedure as outlined in Example 9. aSctarting from 2-(4fluoro-benzenesulfonyl)-acetic acid tert-butyl ester (4.87 g, 20 mmol) and 1-bromo-2-butyne (5.36 g, 40 mmol), 6.0 g of the product was isolated. Yield 77%; white solid; mp 85° C.; MS: 379.1 (M+H)+.

reactant | 2-(4fluoro-benzenesulfonyl)-acetic acid tert-butyl ester | 20 mmol, 4.87 g | C(C)(C)(C)OC(CS(=O)(=O)C1=CC=C(C=C1)F)=O | C12H15FO4S
reactant | 1-bromo-2-butyne | 40 mmol, 5.36 g | BrCC#CC | C4H5Br
product | 2-(4-Fluoro-benzenesulfonyl)-2-but-2-ynylhexynoic acid tert-butyl ester | Yield 77% | C(C)(C)(C)OC(C(C#CCC)(CC#CC)S(=O)(=O)C1=CC=C(C=C1)F)=O | C20H23FO4S
